US07504408B2
(1-{3-[(4-{[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}piperidin-4-yl)methanol
This was prepared using the method described in example 13 using N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (192 mg, 0.38 mmol) and 4-piperidinemethanol (220 mg, 1.9 mmol) in 2-methoxyethanol (4 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanolic ammonia in dichloromethane as eluent. There was thus obtained the title compound (177 mg, 80%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 1.10-1.20 (m, 2H), 1.35 (m, 1H), 1.64 (d, 2H), 1.88 (t, 2H), 1.95 (quintet, 2H), 2.45 (t, 2H), 2.72 (t, 2H), 2.89 (d, 2H), 3.26 (t, 2H), 3.32 (s, 3H), 3.53 (t, 2H), 3.94 (s, 3H), 4.18 (t, 2H), 4.37 (t, 1H), 6.14 (s, 2H), 7.07 (s, 1H), 7.17 (s, 1H), 7.82 (s, 1H), 8.32 (s, 1H), 9.48 (s, 1H); Mass Spectrum: M+H+ 583/585.

reactant | N-[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.38 mmol, 192 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23Cl2N3O5
reactant | 4-piperidinemethanol | 1.9 mmol, 220 mg | N1CCC(CC1)CO | C6H13NO
solvent | 2-methoxyethanol | 4 ml | COCCO | C3H8O2
product | (1-{3-[(4-{[5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}piperidin-4-yl)methanol | 177 mg, 80% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCC(CC1)CO | C30H35ClN4O6
